US04873027
203 mg (0.465 mmol) of (2,2,2-trifluoroethyl)phenyliodonium trifluoromethanesulfonate, 113 mg (0.931 mmol) of N-ethylaniline and 5 ml of methylene chloride were treated and worked up in the same manner as described in Reference Example 4 to obtain 92.6 mg of N-ethyl-N-(2,2,2-trifluoroethyl)aniline as an oily substance. Yield, 98%.

reactant | (2,2,2-trifluoroethyl)phenyliodonium trifluoromethanesulfonate | 0.465 mmol, 203 mg | FC(S(=O)(=O)[O-])(F)F.FC(C[I+]C1=CC=CC=C1)(F)F
reactant | N-ethylaniline | 0.931 mmol, 113 mg | C(C)NC1=CC=CC=C1 | C8H11N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-ethyl-N-(2,2,2-trifluoroethyl)aniline | 92.6 mg | C(C)N(C1=CC=CC=C1)CC(F)(F)F | C10H12F3N
